US06103907
(a) Diethyl 2-(4-benzyloxybenzyl)-2-butylmalonate
Reaction and post-treatment were carried out according to Reference example 12(a) using 2.16 g of diethyl butylmalonate, 2.44 g of 4-benzyloxybenzyl chloride and 480 mg of sodium hydride (55% oil suspension) to obtain 3.67 g of the desired compound as crystals.

reactant | diethyl butylmalonate | 2.16 g | C(CCC)C(C(=O)OCC)C(=O)OCC | C11H20O4
reactant | 4-benzyloxybenzyl chloride | 2.44 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | sodium hydride | 480 mg | [H-].[Na+]
product | Diethyl 2-(4-benzyloxybenzyl)-2-butylmalonate | 3.67 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OCC)(C(=O)OCC)CCCC)C=C1 | C25H32O5
